US07338973B2
11-ethyl-8-methoxy-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene
Following the procedure as in Example 33, using 8-methoxy-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene (1.00 g, 3.75 mmol) and EtI (878 mg, 5.63 mmoL) as the starting material, the title compound was prepared as a white solid.

reactant | 8-methoxy-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene | 3.75 mmol, 1.00 g | COC=1C=C2C=3CSC4=C(C3NC2=CC1)C=CC=C4 | C16H13NOS
reactant | EtI | 878 mg | C(C)I | C2H5I
product | 11-ethyl-8-methoxy-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene | C(C)N1C2=CC=C(C=C2C=2CSC3=C(C12)C=CC=C3)OC | C18H17NOS
